US05610258
(c) 4-Methacryloyloxyphenyl 4-allyloxybenzoate
1 mole of 4-hydroxyphenyl 4-allyloxybenzoate, prepared as described in U.S. Pat. No. 5,211,877, 1.1 mole of methacrylic anhydride and 10 g of p-toluenesulfonic acid are dissolved in 300 ml of toluene and warmed at 100° C. for 1 hour. 100 ml of hexane are added to the cooled solution, and the precipitate is recrystallized from ethanol. Yield: 75% to 80%

reactant | 4-hydroxyphenyl 4-allyloxybenzoate | 1 mole | C(C=C)OC1=CC=C(C(=O)OC2=CC=C(C=C2)O)C=C1 | C16H14O4
reactant | methacrylic anhydride | 1.1 mole | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | p-toluenesulfonic acid | 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methacryloyloxyphenyl 4-allyloxybenzoate | Yield: 75% to 80% | C(C=C)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C(=C)C)=O)C=C1 | C20H18O5
